US07625914B2
0.18 ml (1.3 mmol) of hexanoyl chloride is added to a solution, cooled beforehand to 0° C., of 0.4 g (1.2 mmol) of methyl 2(S)-ethoxy-3-[4-(5-methylaminomethylthiophen-3-yl)phenyl]propanoate and 0.18 ml (1.3 mmol) of triethylamine in 20 ml of tetrahydrofuran. The reaction medium is stirred at room temperature for 2 hours, washed with water and extracted with ethyl acetate. The ethyl acetate phase is dried over magnesium sulfate, filtered and evaporated. The residue obtained is purified by thin-layer chromatography on silica eluted with a 70/30 heptane/ethyl acetate mixture. 0.4 g (83%) of methyl 2(S)-ethoxy-3-(4-{5-[(hexanoylmethylamino)methyl]thiophen-3-yl}phenyl)propanoate is obtained.

reactant | hexanoyl chloride | 1.3 mmol, 0.18 ml | C(CCCCC)(=O)Cl | C6H11ClO
reactant | methyl 2(S)-ethoxy-3-[4-(5-methylaminomethylthiophen-3-yl)phenyl]propanoate | 1.2 mmol, 0.4 g | C(C)O[C@H](C(=O)OC)CC1=CC=C(C=C1)C1=CSC(=C1)CNC | C18H23NO3S
reactant | triethylamine | 1.3 mmol, 0.18 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | methyl 2(S)-ethoxy-3-(4-{5-[(hexanoylmethylamino)methyl]thiophen-3-yl}phenyl)propanoate | 0.4 g, 83% | C(C)O[C@H](C(=O)OC)CC1=CC=C(C=C1)C1=CSC(=C1)CN(C)C(CCCCC)=O | C24H33NO4S
